* source MIXER
R_Rf         N00912 N00920  10k TC=0,0 
V_V1         N00970 0  AC 0V
+SIN 0V 1V 2KHz 0 0 0
V_V3         0 N01082 12Vdc
R_R1         N00970 N00912  10k TC=0,0 
V_V2         N00884 0 12Vdc
R_R2         N01066 N00912  20k TC=0,0 
X_U1         0 N00912 N00884 N01082 N00920 OP-27
V_V5         0 N01614 15Vdc
R_R5         N01762 N01066  330 TC=0,0 
R_R4         0 N01594  1k TC=0,0 
C_C1         N01720 N01762  4.7n  TC=0,0 
C_C2         0 N01720  4.7n  TC=0,0 
X_U2         N01720 N01594 N01728 N01614 N01066 OP-27
V_V4         N01728 0 15Vdc
R_R6         0 N01720  330 TC=0,0 
R_R3         N01594 N01066  2.2k TC=0,0 
